US08012980B2
N-Cyclopropyl-3-fluoro-5-[2-(3-hydroxy-2,2-dimethylpropyl)-4-{[(2R)-2-methylpiperazin-1-yl]methyl}-1-oxo-1,2-dihydroisoquinolin-6-yl]-4-methylbenzamide
(3R)-tert-Butyl 4-((6-(5-(cyclopropylcarbamoyl)-3-fluoro-2-methylphenyl)-2-(3-hydroxy-2,2-dimethylpropyl)-1-oxo-1,2-dihydroisoquinolin-4-yl)methyl)-3-methylpiperazine-1-carboxylate (27 g) was dissolved in 2-propanol (200 mL) and HCl (54.1 mL of a 5-6 N solution in 2-propanol) was added. The reaction was heated at 50° C. for 4 h, cooled to room temperature and stirred overnight. The volatiles were evaporated in vacuo and excess HCl removed by addition of toluene followed by solvent removal in vacuo. Water (300 mL) was added followed by the portionwise addition of sodium bicarbonate (7.15 g) until pH 7. Further sodium bicarbonate (7.15 g) was added portionwise and the mixture extracted with DCM (500 mL+200 mL). The combined organics were washed with brine (250 mL), dried (Na2SO4), filtered and the volatiles evaporated in vacuo to give the title product (22 g).

reactant | (3R)-tert-Butyl 4-((6-(5-(cyclopropylcarbamoyl)-3-fluoro-2-methylphenyl)-2-(3-hydroxy-2,2-dimethylpropyl)-1-oxo-1,2-dihydroisoquinolin-4-yl)methyl)-3-methylpiperazine-1-carboxylate | 27 g | C1(CC1)NC(=O)C=1C=C(C(=C(C1)C=1C=C2C(=CN(C(C2=CC1)=O)CC(CO)(C)C)CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C)C)F | C36H47FN4O5
reactant | HCl | Cl | ClH
solvent | 2-propanol | 200 mL | CC(C)O | C3H8O
product | N-Cyclopropyl-3-fluoro-5-[2-(3-hydroxy-2,2-dimethylpropyl)-4-{[(2R)-2-methylpiperazin-1-yl]methyl}-1-oxo-1,2-dihydroisoquinolin-6-yl]-4-methylbenzamide | 22 g | C1(CC1)NC(C1=CC(=C(C(=C1)C=1C=C2C(=CN(C(C2=CC1)=O)CC(CO)(C)C)CN1[C@@H](CNCC1)C)C)F)=O | C31H39FN4O3
